US07094780B1
Synthesis of (3-Phenylpyrrolin-3-yl)carbamic acid tert-butyl ester
(1-Benzyl-3-phenylpyrrolidin-3-yl)carbamic acid tert-butyl ester (Hagen S. E., Domagala J. M., Heifetz C. L., Sanchez J. P., Solomon M., J. Med. Chem., 1990; 33(2):849–854) (2.79 g, 7.9 mmol) in 100 mL of methanol is treated with 1.0 g of 20% Pd/C and shaken for 17 hours under 50 psi of hydrogen. The solution is filtered and concentrated to afford 2.07 g of the title compound as a foam; MS EI+: m/z 263 (MH+).

reactant | (1-Benzyl-3-phenylpyrrolidin-3-yl)carbamic acid tert-butyl ester | 7.9 mmol, 2.79 g | C(C)(C)(C)OC(NC1(CN(CC1)CC1=CC=CC=C1)C1=CC=CC=C1)=O | C22H28N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | (3-Phenylpyrrolin-3-yl)carbamic acid tert-butyl ester | 2.07 g | C(C)(C)(C)OC(NC1(CNCC1)C1=CC=CC=C1)=O | C15H22N2O2
